US05344828
Ethyl 3-(1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)propionate
A mixture of 2.50 g of 1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine and 1.20 g of ethyl acrylate in 13 ml of ethanol was refluxed for 3 hrs. The reaction mixture was concentrated and the residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate (1:1) as an eluent to give 3.08 g of colorless crystals, which were recrystallized from isopropyl ether to give colorless needles, mp 159°-160° C.

reactant | 1,2,3,4,10,14b-hexahydrodibenzo[c,f]pyrazino[1,2-a]azepine | 2.50 g | C1NCCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1 | C17H18N2
reactant | ethyl acrylate | 1.20 g | C(C=C)(=O)OCC | C5H8O2
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | Ethyl 3-(1,2,3,4,10,14b-Hexahydrodibenzo[c,f]pyrazino[1,2-a]azepin-2-yl)propionate | 3.08 g | C1N(CCN2C1C1=C(CC3=C2C=CC=C3)C=CC=C1)CCC(=O)OCC | C22H26N2O2
